US05334598
Step A: Preparation of ethyl 2-(2,6-dichloro-4-hydroxymethylphenoxy)-2-(3,4-methylene dioxyphenyl)acetate
To a solution of 0.120 g (0.62 mmol) of 3,5-dichloro-4-hydroxybenzyl alcohol in 1.5 mL DMF was added 0.223 g (0.68 mmol) of cesium carbonate and the reaction was magnetically stirred at room temperature for 15 minutes. A solution of 0.196 g (0.68 mmol) of ethyl α-bromo-3,4-methylenedioxyphenylacetate in 0.5 mL DMF was added and the reaction was stirred an additional 30 minutes at room temperature. The reaction mixture was partitioned between EtOAc and 5% aqueous citric acid, extracted, dried (MgSO4), filtered and evaporated. The residue was purified on a silica gel flash chromatography column eluted with 30% EtOAc-hexane, and evaporation of the purified fractions afforded 0.214 g (86%) of the title compound.

reactant | 3,5-dichloro-4-hydroxybenzyl alcohol | 0.62 mmol, 0.120 g | ClC=1C=C(CO)C=C(C1O)Cl | C7H6Cl2O2
reactant | cesium carbonate | 0.68 mmol, 0.223 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl α-bromo-3,4-methylenedioxyphenylacetate | 0.68 mmol, 0.196 g | BrC(C(=O)OCC)C1=CC2=C(C=C1)OCO2 | C11H11BrO4
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(2,6-dichloro-4-hydroxymethylphenoxy)-2-(3,4-methylene dioxyphenyl)acetate | 0.214 g, 86% | ClC1=C(OC(C(=O)OCC)C2=CC3=C(C=C2)OCO3)C(=CC(=C1)CO)Cl | C18H16Cl2O6
